US08217066B2
Step 1: 1-(4′-{4-[3-(3-Chloro-phenyl)-1-methyl-propylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 8, Step 1, using 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 4-(3-chloro-phenyl)-butan-2-one.

reactant | 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)N | C22H22N2O3
reactant | 4-(3-chloro-phenyl)-butan-2-one | ClC=1C=C(C=CC1)CCC(C)=O | C10H11ClO
product | 1-(4′-{4-[3-(3-Chloro-phenyl)-1-methyl-propylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(CCC1=CC(=CC=C1)Cl)C | C32H33ClN2O3
